US07288553B2
1-Chloro-2-(1-methanesulfonyl-1H-indol-2-yl)-propan-2-ol
This compound was prepared using the general Sonagashira procedure as described in General Example C, from N-(2-iodo-phenyl)-methanesulfonamide (1.65 g, 5.55 mmol) and 1-chloro-2-methyl-but-3-yn-2-ol (0.79 g, 6.66 mmol) to yield a brown oil.

reactant | N-(2-iodo-phenyl)-methanesulfonamide | 5.55 mmol, 1.65 g | IC1=C(C=CC=C1)NS(=O)(=O)C | C7H8INO2S
reactant | 1-chloro-2-methyl-but-3-yn-2-ol | 6.66 mmol, 0.79 g | ClCC(C#C)(O)C | C5H7ClO
product | 1-Chloro-2-(1-methanesulfonyl-1H-indol-2-yl)-propan-2-ol | ClCC(C)(O)C=1N(C2=CC=CC=C2C1)S(=O)(=O)C | C12H14ClNO3S
